US06489485B2
A solution of 3-cyclopentyl-2-{4-[(pyridine-3-carbonyl)-amino]-phenyl}-propionic acid (233 mg, 0.66 mmol) in methylene chloride (10 mL) was cooled to 0° C. and then treated with a 2.0M solution of oxalyl chloride in methylene chloride (0.36 mL, 0.72 mmol) and a few drops of N,N-dimethylformamide. The reaction mixture was stirred at 0° C. for 15 min and at 25° C. for 30 min. The reaction mixture was then treated with a solution of 2-amino-thiazole-4-carboxylic acid ethyl ester (367 mg, 1.45 mmol) in tetrahydrofuran (5 mL) and N,N-diisopropylethylamine (0.40 mL, 2.31 mmol). This solution was stirred at 25° C. for 48 h. At this time, the reaction was concentrated in vacuo. High pressure liquid chromatography (Chromegasphere SI-60, 10 μM, 60 Å, 25 cm×23 cm ID, 95/5 ethyl acetate/heptane) afforded 2-(3-cyclopentyl-2-{4-[(pyridine-3-carbonyl)-amino]-phenyl}propionylamino)-thiazole-4-carboxylic acid ethyl ester (40.5 mg, 12.5%) as an off-white: mp 222-223° C.; EI-HRMS m/e calcd for C26H28N4O4S (M+) 492.1831, found 492.1835.

reactant | 3-cyclopentyl-2-{4-[(pyridine-3-carbonyl)-amino]-phenyl}-propionic acid | 0.66 mmol, 233 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)NC(=O)C=1C=NC=CC1 | C20H22N2O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-thiazole-4-carboxylic acid ethyl ester | 1.45 mmol, 367 mg | C(C)OC(=O)C=1N=C(SC1)N | C6H8N2O2S
reactant | N,N-diisopropylethylamine | 2.31 mmol, 0.40 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 0.72 mmol, 0.36 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-cyclopentyl-2-{4-[(pyridine-3-carbonyl)-amino]-phenyl}propionylamino)-thiazole-4-carboxylic acid ethyl ester | 40.5 mg, 12.5% | C(C)OC(=O)C=1N=C(SC1)NC(C(CC1CCCC1)C1=CC=C(C=C1)NC(=O)C=1C=NC=CC1)=O | C26H28N4O4S
